US05356905
2 -Bromo-6-methoxytetralone
6-Methoxytetralone (2.0 g, 11.4 mmol) and bromine (0.6 ml, 11.7 mmol) were refluxed in ether (50 ml) for 30 minutes. The reaction mixture was cooled, concentrated, the residue partitioned between ethyl acetate and dilute NaHSO3. The organic layer was washed with saturated NaHCO3 and water, dried over CaSO4, and concentrated to an oil (2.83 g, 100%); 1H-NMR 8.03 (d, J=9.0 Hz, 1H), 6.84 (dd, J1 =9.0 Hz, J2 =2.7 Hz, 1H), 6.69 (d, J=2.3 Hz, 1H), 4.66 (t, J=4.1 Hz, 1H), 3.84 (s,3H), 3.20-3.30 (m, 1H), 2.82-2.90 (m, 1H), 2.34-2.50 (m, 2H).

reactant | 6-Methoxytetralone | 11.4 mmol, 2.0 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | bromine | 11.7 mmol, 0.6 ml | BrBr | Br2
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2 -Bromo-6-methoxytetralone | BrC1C(C2=CC=C(C=C2CC1)OC)=O | C11H11BrO2
